US09023858B2
2-[(4,4-difluorocyclohexyl)oxy]-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
To a suspension of sodium hydride (60% in oil, 19 mg) in tetrahydrofuran (5 ml) was added 4,4-difluorocyclohexanol (109 mg) at room temperature, and the mixture was stirred at room temperature for 10 min. To the reaction mixture was added 2-(propylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (165 mg), and the mixture was stirred at room temperature for 5 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and recrystallized from a mixed solvent of hexane/ethyl acetate to give the title compound (75 mg).

reactant | sodium hydride | 19 mg | [H-].[Na+]
reactant | 4,4-difluorocyclohexanol | 109 mg | FC1(CCC(CC1)O)F | C6H10F2O
reactant | 2-(propylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 165 mg | C(CC)SC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H16F3N3O3S
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[(4,4-difluorocyclohexyl)oxy]-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 75 mg | FC1(CCC(CC1)OC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F)F | C21H18F5N3O4
